US06350762B1
5) Synthesis of 4-(3-chlorophenyl)-2-dimethoxymethyl-6-methyl-3-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-5-carboxylic acid
134 mg (1.16 mmol) of 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-dimethoxymethyl-6-methyl-3-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-5-carboxylate was dissolved in 2.5 ml of methanol. 0.25 ml of 1 N aqueous sodium hydroxide solution was added to the obtained solution, and they were stirred at room temperature for 3 hours. An aqueous potassium hydrogensulfate solution was added to the reaction mixture. After the solvent was evaporated under reduced pressure, the residue was washed with water and then dried under reduced pressure to obtain the title compound.

reactant | 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-dimethoxymethyl-6-methyl-3-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-5-carboxylate | 1.16 mmol, 134 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCC#N)C)C(OC)OC)C(NCC=CC1=CC=CC=C1)=O | C29H30ClN3O5
reactant | sodium hydroxide | 1 N, 0.25 ml | [OH-].[Na+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 2.5 ml | CO | CH4O
product | 4-(3-chlorophenyl)-2-dimethoxymethyl-6-methyl-3-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-5-carboxylic acid | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)O)C)C(OC)OC)C(NCC=CC1=CC=CC=C1)=O | C26H27ClN2O5
